US07790727B2
2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic Acid (4-methoxy-3-piperazin-1-yl-phenyl)-amide Hydrochloride
The title compound was prepared by treatment of 4-{5-[(2,2-Difluoro-benzo[1,3]dioxole-4-sulfonyl)-methyl-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester with HCl in ether and dichloromethane as solvent.

reactant | 4-{5-[(2,2-Difluoro-benzo[1,3]dioxole-4-sulfonyl)-methyl-amino]-2-methoxy-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N(C)S(=O)(=O)C1=CC=CC=2OC(OC21)(F)F)OC | C24H29F2N3O7S
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,2-Difluoro-benzo[1,3]dioxole-4-sulfonic Acid (4-methoxy-3-piperazin-1-yl-phenyl)-amide Hydrochloride | Cl.COC1=C(C=C(C=C1)NS(=O)(=O)C1=CC=CC=2OC(OC21)(F)F)N2CCNCC2 | InChI=1S/C18H19F2N3O5S.ClH/c1-26-14-6-5-12(11-13(14)23-9-7-21-8-10-23)22-29(24,25)16-4-2-3-15-17(16)28-18(19,20)27-15;/h2-6,11,21-22H,7-10H2,1H3;1H
